US07557213B2
Experimental conditions analogous to those described for Step 6 of Example 60 were used with 100 mg (0.273 mmol) of 6,7-Dimethyl-1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl amide, 1.2 mL (0.60 mmol, 0.5 M in tetrahydrofuran) of 3-fluoro-4-methoxyphenylmagnesium bromide and 1.2 mL of THF. The crude product was purified by flash column chromatography using a gradient of 20-100% ethyl acetate in hexane and further purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 58.7 mg 3-(3-Fluoro-4-methoxy-benzoyl)-6,7-dimethyl-1-(6-methyl-pyridin-2-ylmethyl)-1H-[1,8]naphthyridin-4-one. LC-MSD, m/z for C25H22FN3O3 [M+H]: 432.16 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.1 min

reactant | 6,7-Dimethyl-1-(6-methyl-pyridin-2-ylmethyl)-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid methoxy-methyl amide | 0.273 mmol, 100 mg | CON(C(=O)C1=CN(C2=NC(=C(C=C2C1=O)C)C)CC1=NC(=CC=C1)C)C | C20H22N4O3
reactant | 3-fluoro-4-methoxyphenylmagnesium bromide | 0.60 mmol, 0.5 M, 1.2 mL | FC=1C=C(C=CC1OC)[Mg]Br
solvent | THF | 1.2 mL | C1CCOC1 | C4H8O
product | 3-(3-Fluoro-4-methoxy-benzoyl)-6,7-dimethyl-1-(6-methyl-pyridin-2-ylmethyl)-1H-[1,8]naphthyridin-4-one | 58.7 mg | FC=1C=C(C(=O)C2=CN(C3=NC(=C(C=C3C2=O)C)C)CC2=NC(=CC=C2)C)C=CC1OC | C25H22FN3O3
